US06617325B1
e. 4′-trifluoromethyl-biphenyl-2-carboxylic acid-piperidin-4-yl-amide
31.6 g (0.072 mol) of 4′-trifluoromethyl-biphenyl-2-carboxylic acid-(1-benzyl-piperidin-4-yl)-amide are dissolved in 180 ml ethanol and 180 ml methanol, mixed with 84 ml (0.83 mol) of cyclohexene and 6.53 g of palladium hydroxide (20% on charcoal) and refluxed for four hours. The hot reaction mixture is filtered through kieselguhr and the reaction mixture is concentrated by rotary evaporation.

reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid-(1-benzyl-piperidin-4-yl)-amide | 0.072 mol, 31.6 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C26H25F3N2O
reactant | cyclohexene | 0.83 mol, 84 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 180 ml | C(C)O | C2H6O
solvent | methanol | 180 ml | CO | CH4O
catalyst | palladium hydroxide | 6.53 g | [OH-].[Pd+2].[OH-]
product | 4′-trifluoromethyl-biphenyl-2-carboxylic acid-piperidin-4-yl-amide | N1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C19H19F3N2O
